US05405851
3-Amino-8-bromo-N,N,-diethyl-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonamide (0.165 g, 0.39 mmole) was suspended in pivalic anhydride (5 ml) (Aldrich) and heated under nitrogen until dissolved. The solution was heated under reflux for 10 minutes, cooled, and the pivalic anhydride removed in vacuo. The dried solid was dissolved in benzene (20 ml), pyridine (0.05 ml) added, and the solution heated to boiling under nitrogen. N-Bromosuccinimide (0.07 g, 0.47 mmole) was added, and the mixture refluxed for an additional 6 hours. The reaction mixture was cooled to room temperature, solvent removed in vacuo, and the solid residue crystallized from methanol. The pivalamide (0.105 g) was dissolved in methanol(2 ml), 1N NaOH(4 ml) added, and the solution heated to reflux under nitrogen for 1 hour. The cooled reaction mixture was neutralized with dilute acetic acid, the crystals collected by filtration and suspended in methanol. The collected crystals were dried in vacuo to give 3-amino-8-bromo-N,N-diethyl-1,2-dihydro-1-oxobenzo[f]quinazolin-9-sulfonamide (0.055 g, 33%). Mp>250° C. 1H NMR (DMSO-d6, 200 MHz) δ: 1.10 (t, J=7 Hz, 6H, ethyl CH3), 3.38 (q, J=7 Hz, 4H, ethyl CH2), 6.78 (br s, 2 H, NH2), 7.47 (d, J=9 Hz, 1H, Ar), 8.09 (d, J=9 Hz, 1H, Ar), 8.40 (s, 1H, Ar), 10.30 (s, 1H, Ar), 11.32 (br s 1H, NH). Anal Calculated for C16H17BrN4O3S: C,45.19; H,4.03; Br,18.79; N,13.17; S,7.54. Found: C,45.10; H,4.03; Br,18.74; N,13.07; S,7.56.

reactant | 3-Amino-8-bromo-N,N,-diethyl-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonamide | 0.39 mmole, 0.165 g | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C(=C3)Br)S(=O)(=O)N(CC)CC | C16H19BrN4O3S
reactant | N-Bromosuccinimide | 0.47 mmole, 0.07 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | pivalic anhydride | 5 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | 3-amino-8-bromo-N,N-diethyl-1,2-dihydro-1-oxobenzo[f]quinazolin-9-sulfonamide | 0.055 g, 33% | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C(=C3)Br)S(=O)(=O)N(CC)CC | C16H17BrN4O3S
